US04554350
Thionicotinamide (0.28 g) and pyridine (0.16 g) are added to a solution of the syn isomer of 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (mixture of the two diastereoisomers) (1.66 g) in tetrahydrofuran (20 cc) and the mixture is heated at 50° C. for 90 minutes. The reaction mixture is subsequently cooled to 0° C. and then treated successively with methanesulphonyl chloride (0.23 g) and triethylamine (0.56 cc). After 30 minutes at 0° C., the reaction mixture is poured into a mixture of a saturated solution of sodium bicarbonate (200 cc) and ethyl acetate (100 cc); the organic phase is decanted, washed with distilled water (150 cc) and with a saturated solution of sodium chloride (150 cc) and then dried over magnesium sulphate. The residue obtained after evaporation of the solvent to dryness under reduced pressure (4 kPa) at 40° C. is chromatographed on a column (height: 30 cm, diameter: 1.5 cm) containing silica gel (0.04-0.06 mm), elution being carried out under a pressure of 0.5 bar (50 kPa) with a mixture of cyclohexane and ethyl acetate (30/70 by volume) and 50 cc fractions being collected. Fractions 18 to 26 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 30° C. to give the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.18 g) in the form of a beige powder.

reactant | Thionicotinamide | 0.28 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
reactant | 2-benzhydryloxycarbonyl-3-(1-bromo-2-oxoethyl)-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C(C=O)Br)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C47H38BrN5O6S2
reactant | methanesulphonyl chloride | 0.23 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 200 cc | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 cc | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.56 cc | C(C)N(CC)CC | C6H15N
solvent | pyridine | 0.16 g | N1=CC=CC=C1 | C5H5N
product | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-[2-(pyridin-3-yl)-thiazol-5-yl]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.18 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)C=1C=NC=CC1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C53H41N7O5S3
